US09234861B2
Namely, in the measurement solution vessel 8, an analyte sample was caused to be acted on with bilirubin oxidase in the presence of potassium ferricyanide to produce potassium ferrocyanide. A solution under measurement containing potassium ferrocyanide from the measurement solution vessel 8 and a buffer fluid from the buffer fluid vessel 9 were introduced into the solution inlet pipe 13 to be mixed together and then injected into the electrolysis cell 1 by the solution injection mechanism 12 so that electrochemical measurement was done.

reactant | bilirubin | CC=1C(=C(NC1/C=C\2/C(=C(C(=O)N2)C=C)C)CC3=C(C(=C(N3)/C=C\4/C(=C(C(=O)N4)C)C=C)C)CCC(=O)O)CCC(=O)O | C33H36N4O6
reactant | potassium ferricyanide | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | potassium ferrocyanide | [Fe-4](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+].[K+] | InChI=1S/6CN.Fe.4K/c6*1-2;;;;;/q;;;;;;-4;4*+1
